US04497813
2-benzyloxybenzylamine
In a Soxhlet apparatus 18.4 g of lithium aluminium hydride in 1800 ml of dry ether are boiled under a nitrogen atmosphere at a bath temperature of 70°, 5.3 g of 2-benzyloxybenzamide being introduced into the Soxhlet thimble. After 21 hours the reaction mixture is immersed in an ice bath, and 18.4 ml of water, 18.4 ml of 15% sodium hydroxide solution and 55 ml of water are added dropwise in succession, whilst stirring. The temperature may be allowed to rise to a maximum of +10°. Stirring of the mixture is then continued at 20° and the resulting precipitate is suction-filtered and washed with ether. The filtrate is concentrated by evaporation in vacuo and the oil remaining is stirred with 500 ml of 10% hydrochloric acid and 400 ml of ether for 2 hours, whilst cooling with ice. The precipitated 2-benzyloxybenzylamine hydrochloride is suction-filtered, washed with water and ether and dried in vacuo. Melting point 190°-191°.

reactant | lithium aluminium hydride | 18.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-benzyloxybenzamide | 5.3 g | C(C1=CC=CC=C1)OC1=C(C(=O)N)C=CC=C1 | C14H13NO2
reactant | water | 18.4 ml | O | H2O
reactant | sodium hydroxide | 18.4 ml | [OH-].[Na+]
reactant | water | 55 ml | O | H2O
solvent | ether | 1800 ml | CCOCC | C4H10O
product | 2-benzyloxybenzylamine | C(C1=CC=CC=C1)OC1=C(CN)C=CC=C1 | C14H15NO
